US03944410
1-Trichloromethyl-3-(3',4'-dichlorophenyl)-3-hydroxyurea (16.9 grams; 0.05 mol) is dissolved in dioxane (75 ml) and mixed with 2N aqueous sodium hydroxide (30 ml). Ethyl chloroformate (5.7 ml; 0.06 mol) is then added dropwise to the mixture with stirring, resulting in the formation of a precipitate. The precipitate is recovered by filtration, washed with water and dried to yield 2-(3', 4'-dichlorophenyl)-4-trichloromethyl-1,2,4-oxadiazolidine-3,5-dione.

reactant | 1-Trichloromethyl-3-(3',4'-dichlorophenyl)-3-hydroxyurea | 0.05 mol, 16.9 grams | ClC(NC(=O)N(O)C1=CC(=C(C=C1)Cl)Cl)(Cl)Cl | C8H5Cl5N2O2
reactant | sodium hydroxide | 2N, 30 ml | [OH-].[Na+]
reactant | Ethyl chloroformate | 0.06 mol, 5.7 ml | ClC(=O)OCC | C3H5ClO2
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 2-(3', 4'-dichlorophenyl)-4-trichloromethyl-1,2,4-oxadiazolidine-3,5-dione | ClC=1C=C(C=CC1Cl)N1OC(N(C1=O)C(Cl)(Cl)Cl)=O | C9H3Cl5N2O3
